US07557221B2
(R)-2-Amino-2-(4-{[bis-(2-hyd roxy-ethyl )-carbamoyl]-methoxy}-phenyl)-N-[(1S,2S)-1-(6-iodo-1H-benzoimidazol-2-yl)-2-phenyl-propyl]-acetamide (170 mg, 0.253 mmol) was dissolved in dry tetrahydrofuran (3.4 mL) and cooled in an ice bath. To this solution was added triethylamine (176.3 μL, 1.265 mmol) followed by trimethylsilyl chloride (132 μL, 1.012 mmol). After 0.5 hours another 2.5 equivalents of triethylamine (88 μL, 0.63 mmol) and 2 equivalents of trimethylsilyl chloride (66 μL, 0.506 mmol) were added. The reaction mixture was stirred at 0° C. for an additional 1.5 hours then the reaction mixture was poured into ethyl acetate (40 mL) and washed with brine (3×25 mL). The combine aqueous washes were then extracted with ethyl acetate (2×25 mL). The combined organic extracts were dried over sodium sulfate, filtered and concentrated in vacuo to give (R)-2-amino-2-(4-{[bis-(2-trimethylsilanyloxy-ethyl)-carbamoyl]-methoxy}-phenyl)-N-[(1S,2S)-1-(6-iodo-1H-benzoimidazol-2-yl)-2-phenyl-propyl]-acetamide (190 mg, 92%).

reactant | (R)-2-Amino-2-(4-{[bis-(2-hyd roxy-ethyl )-carbamoyl]-methoxy}-phenyl)-N-[(1S,2S)-1-(6-iodo-1H-benzoimidazol-2-yl)-2-phenyl-propyl]-acetamide | 0.253 mmol, 170 mg | N[C@@H](C(=O)N[C@@H]([C@@H](C)C1=CC=CC=C1)C1=NC2=C(N1)C=C(C=C2)I)C2=CC=C(C=C2)OCC(N(CCO)CCO)=O | C30H34IN5O5
reactant | triethylamine | 1.265 mmol, 176.3 μL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 1.012 mmol, 132 μL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 0.63 mmol, 88 μL, 2.5 equivalents | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 0.506 mmol, 66 μL, 2 equivalents | C[Si](C)(C)Cl | C3H9ClSi
reactant | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 3.4 mL | O1CCCC1 | C4H8O
product | (R)-2-amino-2-(4-{[bis-(2-trimethylsilanyloxy-ethyl)-carbamoyl]-methoxy}-phenyl)-N-[(1S,2S)-1-(6-iodo-1H-benzoimidazol-2-yl)-2-phenyl-propyl]-acetamide | 190 mg, 92% | N[C@@H](C(=O)N[C@@H]([C@@H](C)C1=CC=CC=C1)C1=NC2=C(N1)C=C(C=C2)I)C2=CC=C(C=C2)OCC(N(CCO[Si](C)(C)C)CCO[Si](C)(C)C)=O | C36H50IN5O5Si2
